US07737166B2
7-Fluoro-2-(2-furylmethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-271)
With cooling with ice, 1-hydroxybenzotriazole (134 mg, 0.991 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (174 mg, 0.908 mmol) and triethylamine (127 μl, 0.980 mmol) were added to an acetonitrile (8 ml) solution of 4-amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile (I-41) (200 mg, 0.826 mmol) and 2-furylacetic acid (115 mg, 0.908 mmol), followed by stirring at room temperature for 16 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, and washed with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate, then concentrated under reduced pressure, and the resulting residue was dissolved in xylene (20 ml), then pyridinium p-toluenesulfonate (50 mg) was added, followed by heating under reflux in an oil bath at 160° C. for 1 hour. The reaction liquid was concentrated under reduced pressure, then the residue was dissolved in ethyl acetate, washed with saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=4:1, v/v) to obtain the entitled compound (155 mg, 57%) as a pale yellow solid.

reactant | 1-hydroxybenzotriazole | 0.991 mmol, 134 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.908 mmol, 174 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 0.980 mmol, 127 μl | C(C)N(CC)CC | C6H15N
reactant | 4-amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile | 0.826 mmol, 200 mg | NC1=C(C(=C(C(=C1O)F)C1=CC=CC=C1)C)C#N | C14H11FN2O
reactant | 2-furylacetic acid | 0.908 mmol, 115 mg | O1C(=CC=C1)CC(=O)O | C6H6O3
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 7-Fluoro-2-(2-furylmethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 155 mg, 57% | FC=1C(=C(C(=C2N=C(OC21)CC=2OC=CC2)C#N)C)C2=CC=CC=C2 | C20H13FN2O2
